US07608627B2
Using the procedure described for Example 43 with isonicotinic acid at room temperature, the reaction was stopped once 1-phenyl-1-(1H-pyrrolo[2,3-c]pyridin-2-yl)methylamine was consumed as judged by TLC analysis. Upon addition of water a solid precipitated. The solid was collected by filtration and dried to provide N-[phenyl(1H-pyrrolo[2,3-c]pyridin-2-yl)methyl]isonicotinamide (58 mg, 44%) as an off-white solid: mp 182-192° C.; 1H NMR (300 MHz, CD3OD) δ6.34 (1H, s), 6.67 (1H, s), 7.30-7.55 (7H, m), 7.84-7.87 (2H, m), 8.04 (1H, d, J=5.7 Hz), 8.63 (1H, s), 8.69-8.71 (1H, m); ESI MS m/z 329 [C20H16N4O+H]+; HPLC (Method A) >99% (AUC) tR=14.1 min.

reactant | isonicotinic acid | C(C1=CC=NC=C1)(=O)O | C6H5NO2
reactant | 1-phenyl-1-(1H-pyrrolo[2,3-c]pyridin-2-yl)methylamine | C1(=CC=CC=C1)C(C1=CC=2C(=CN=CC2)N1)N | C14H13N3
product | N-[phenyl(1H-pyrrolo[2,3-c]pyridin-2-yl)methyl]isonicotinamide | 58 mg, 44% | C1(=CC=CC=C1)C(NC(C1=CC=NC=C1)=O)C1=CC=2C(=CN=CC2)N1 | C20H16N4O
